US06340759B1
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-(2-hydroxy-2-phenylethyl)isoquinoline
To a solution of the resulting 1-(4-ethylpiperazin-1-yl)-3-phenacylisoquinoline (0.92 g) in methanol (30 ml) was added sodium borohydride (0.12 g) at room temperature. One hr later, the reaction mixture was concentrated. The resulting residue was partitioned between ethyl acetate and water, and extracted with ethyl acetate. The resulting organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was removed, to give the title compound (0.81 g) as a pale yellow oil.

reactant | 1-(4-ethylpiperazin-1-yl)-3-phenacylisoquinoline | 0.92 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)CC(=O)C1=CC=CC=C1 | C23H25N3O
reactant | sodium borohydride | 0.12 g | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 1-(4-ethylpiperazin-1-yl)-3-(2-hydroxy-2-phenylethyl)isoquinoline | 0.81 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)CC(C1=CC=CC=C1)O | C23H27N3O
